US08242116B2
tert-Butyl (3S)-3-[3-(triethylsilyl)prop-2-yn-1-yl]morpholine-4-carboxylate
To a stirred solution of triethylsilyl acetylene (6.3 mL, 35.0 mmol) in anhydrous THF (80 mL) at 0° C. was added n-butyllithium (14 mL, 2.5M in hexanes, 35.0 mmol) dropwise over 20 minutes. After stirring at this temperature for 30 minutes, this reaction mixture was added to a cool (0° C.) suspension of Intermediate 23 (2.5 g, 14.0 mmol) in DMPU (3.2 mL) and THF (15 mL) dropwise. The reaction mixture was stirred at 0° C. for 30 minutes, then at r.t. for 30 minutes, then quenched by the addition of 2M aqueous HCl (5 mL). MeOH (20 mL) and additional 2M aqueous HCl (20 mL) were added, and the reaction mixture was stirred at r.t. for 3 h before being concentrated in vacuo. The residue was dissolved in DCM (80 mL), and the solution cooled at 0° C. DIPEA (3.7 mL, 21.0 mmol) was added, followed by di-tert-butyl dicarbonate (4.6 g, 21.0 mmol). The reaction mixture was stirred at r.t. for 16 h. Water (150 mL) was added. The organic fraction was separated, washed with brine (150 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification by column chromatography (SiO2, 5-10% EtOAc/hexanes) gave the title compound (2.8 g, 60%) as a colourless oil. δH (DMSO-d6) 4.03 (1H, d, J 11.6 Hz), 3.96 (1H, dd, J 2.3 and 1.3 Hz), 3.77 (1H, dd, J 11.1 and 2.8 Hz), 3.65 (1H, d, J 12.9 Hz), 3.44 (1H, ddd, J 11.6, 3.3 and 1.3 Hz), 3.37 (1H, td, J 12.1 and 3.0 Hz), 3.12-2.95 (1H, m), 2.76 (1H, dd, J 16.4 and 10.6 Hz), 2.31 (1H, ddd, J 16.2, 4.5 and 0.8 Hz), 1.40 (9H, s), 0.90 (9H, t, J 8.1 Hz), 0.49 (6H, d, J 7.8 Hz).

reactant | triethylsilyl acetylene | 35.0 mmol, 6.3 mL | C(C)[Si](CC)(CC)C#C | C8H16Si
reactant | n-butyllithium | 35.0 mmol, 2.5M, 14 mL | C(CCC)[Li]
reactant | DIPEA | 21.0 mmol, 3.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 21.0 mmol, 4.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMPU | 3.2 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | Water | 150 mL | O | H2O
product | tert-Butyl (3S)-3-[3-(triethylsilyl)prop-2-yn-1-yl]morpholine-4-carboxylate | 2.8 g, 60% | C(C)[Si](C#CC[C@@H]1N(CCOC1)C(=O)OC(C)(C)C)(CC)CC | C18H33NO3Si
